US08975254B2
c) (R)-4-(1-(2-(1,3-dioxoisoindolin-2-yl)propyl)-1H-pyrazol-3-yl)-2-methylbenzonitrile
2-Methyl-4-(1H-pyrazol-3-yl)benzonitrile (2.23 g, 12.2 mmol) was reacted with (R)-2-(1-bromopropan-2-yl)isoindoline-1,3-dione (3.92 g, 14.6 mmol) using the method of Example 27(a). Crude product was purified by chromatography (CombiFlash, silica column, eluent: 0-100% EtOAc/heptane) to yield 0.753 g (17%) of the title compound. Product was used in the next step without analysis.

reactant | 2-Methyl-4-(1H-pyrazol-3-yl)benzonitrile | 12.2 mmol, 2.23 g | CC1=C(C#N)C=CC(=C1)C1=NNC=C1 | C11H9N3
reactant | (R)-2-(1-bromopropan-2-yl)isoindoline-1,3-dione | 14.6 mmol, 3.92 g | BrC[C@@H](C)N1C(C2=CC=CC=C2C1=O)=O | C11H10BrNO2
product | (R)-4-(1-(2-(1,3-dioxoisoindolin-2-yl)propyl)-1H-pyrazol-3-yl)-2-methylbenzonitrile | 0.753 g, 17% | O=C1N(C(C2=CC=CC=C12)=O)[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)C)C | C22H18N4O2
